US05885816
To a solution of antibody 7G12 in 50 mM Tris-buffered solution, pH 8.0 (90 μL), was added a solution of a substrate compound, N-(benzyloxycarbonyl)-L-phenylalanine 4-nitrobenzyl ester (L-1) (R=PhCH2), synthesized in Preparation 3, in 2mM DMSO solution (10 μL) at 25° C., and they were mixed with stirring to obtain the reaction mixture containing 10.8 μM antibody and 200 μM substrate. By means of HPLC (YMCAM-303: C-18, 10 mm in diameter×250 mm in length, an aqueous solution of acetonitrile/0.1% trifluoroacetic acid=35/65 (0-7 minutes), 35/65-90/10 (7-15 minutes), 90/10 (15-17 minutes), 1.0 mL/minute, 278 nm), the amount of 4-nitrobenzyl alcohol (retention time: 5.9 minutes) produced in the reaction mixture was traced in time course for the purpose of determing initial rate. Next, the same procedure as mentioned above was repeated using N-(benzyloxycarbonyl)-D-phenylalanine 4-nitrobenzyl ester (D-1) (R=PhCH2) instead of N-(benzyloxycarbonyl)-L-phenylalanine 4-nitrobenzyl ester (L-1) (R=PhCH2) to determine the initial rate. Background hydrolytic reaction rate was also determined based on the amount of 4-nitrobenzyl alcohol produced by spontaneous degradation in the reaction solution free from antibody 7G12.

reactant | N-(benzyloxycarbonyl)-L-phenylalanine 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC([C@@H](NC(=O)OCC2=CC=CC=C2)CC2=CC=CC=C2)=O)C=C1 | C24H22N2O6
reactant | acetonitrile | C(C)#N | C2H3N
solvent | Tris | 50 mM | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMSO | 2mM, 10 μL | CS(=O)C | C2H6OS
product | 4-nitrobenzyl alcohol | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
